### PR TITLE
isolated points

### LINKED ISSUE #1775: `closure_limit_point` can also be expressed as a disjoint union
https://github.com/math-comp/analysis/blob/c9c9435c42c196817b155f9b25eb5b6f48345dd7/theories/topology_theory/topology_structure.v#L690

by introducing explicitly the notion of isolated point

@IshiguroYoshihiro

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

fixes #1775 

define `isolated` points and properties and refine a lemma about `closure`

@IshiguroYoshihiro 

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/normedtype_theory/normed_module.v [hunk 1]
```diff
@@ -2088,6 +2088,85 @@ apply: filterS => e xeA y exy; apply: xeA.
...
+  exists c r, let B : set R := ball (@ratr R c) (ratr r) in x \in B /\ B `<=` S.
+Proof.
+move=> oS /set_mem/(open_subball oS)[r/= r0 rS].
+have [y yxr] : exists y, ball x (r / 4) (ratr y).
+  suff : ball x (r / 4) `&` range ratr !=set0.
+    by move=> [/= _ []] /[swap] -[y _ <-]; exists y.
+  apply: dense_rat; last by apply: ball_open; rewrite divr_gt0.
+  by exists x; apply: ballxx; rewrite divr_gt0.
+have [q /andP[rq qr]] : exists q, r / 4 < ratr q < r / 2.
+  have : ball (r / 3) (r / 12) `&` range ratr !=set0.
```
Comment (t6s) [inline theories/normedtype_theory/normed_module.v:2101]: I like these magic numbers. Looks like optimal choices.

File: classical/cardinality.v [hunk 2]
```diff
@@ -1117,6 +1117,18 @@ Qed.
 Lemma card_rat : [set: rat] #= [set: nat].
 Proof. exact/eq_card_nat/infinite_rat/countableP. Qed.
 
+Lemma infinite_prod_rat : infinite_set [set: rat * rat].
```
Comment (t6s) [inline classical/cardinality.v:1133]: infinite_prod_rat and infinite_prod_nat can be unified by adding following lemmas:

```
Lemma finite_setX_or T T' (A : set T) (B : set T') :
  finite_set (A `*` B) -> finite_set A \/ finite_set B.
Proof.
have [->|/set0P[a Aa]] := eqVneq A set0; first by left.
have: [set a] `*` B `<=` A `*` B by move=> x/= [] -> ?; split.
move/sub_finite_set/[apply]/(finite_image snd).
rewrite (_ : _ @` _ = B); first by right.
apply/seteqP; split=> b /=.
  by case=> -[] /= ? ? [] ? ? <-.
by move=> ?; exists (a, b).
Qed.

Lemma infinite_setX {T} {A B : set T} :
  infinite_set A -> infinite_set B -> infinite_set (A `*` B).
Proof.
by move=> iA iB; have /not_orP := conj iA iB; exact/contra_not/finite_setX_or.
Qed.
```

**Review by t6s — APPROVED** [review]
Looks good, modulo the refactoring comment.

File: classical/cardinality.v (hunk 2 above)
Comment (affeldt-aist) [reply classical/cardinality.v:1133]: Excellent!
